Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:14]([H:15])([H:16])[H:17],4.83688489246
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:7]([H:8])([H:9])=[C:10]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2][C:3]([H:4])([H:5])[H:6],2.32599451
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[O:2]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],-2.06281614858
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:1][C:2],4.93235179
[C:1]/[C:2]([H:3])=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][H:3].[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],3.26476582563
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.379736346980001
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[O:10],0.928844126338
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5],4.58323026253
[C:1][O:2][C:3]#[C:4].[O:5][H:6]>>[C:1][O:2][C:3]#[C:4][O:5][H:6],-5.1974058056
[H:1][O:2][C@@:3]12[O:4][C@@:5]1([H:6])[C:7]2[H:8]>>[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7][H:8],1.6769280192200002
[H:1][O:2]/[C:3]=[C:4](\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3],3.81877956103
[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:2]#[C:3][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[H:1][C:4],7.403916824069999
[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],-8.00518285261
[C:5](\[O:6][H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([O:6][H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-2.22295332898
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])[H:14].[H:9],3.84540143703
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.84585490911
[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])(/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],4.4169272255
[H:16].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.53532871181
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14],-1.8756343735900003
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][H:9]>>[C:1].[O:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9],3.0423188910100003
[O:1][C:2](=[O:3])[H:4]>>[C:2](=[O:3])[H:4].[O:1],4.56849925052
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.91172703547
[H:1].[O:2]=[C:3]=[C:4][C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10],-1.4617953192
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.75018686481
[O:1][C@:2]([H:3])([C:4]#[C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][H:7],0.514543102001
[C:9]([H:10])([C:11])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:12][H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11][C:12]([H:13])([H:14])[H:15],-4.56421325024
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][O:4][H:5],3.46767677774
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],-1.83661469548
